US09315729B2
6.00 g (10.8 mmol) of 4′-bromo-4-[difluoro-(4-iodophenoxy)methyl]-3,5,2′-trifluorobiphenyl and 4.00 g (40.8 mmol) of hex-5-yn-1-ol are initially introduced in 6 ml of triethylamine and 300 ml of toluene, 0.700 g (1.00 mmol) of bis(triphenylphosphine)palladium(II) chloride and 0.100 g (0.525 mmol) of copper(I) iodide are added, and the mixture is heated under reflux overnight. The batch is subsequently added to water, neutralised using 2 N hydrochloric acid and extracted three times with toluene. The combined org. phases are dried over sodium sulfate, the solvent is removed in vacuo, and the residue is chromatographed on silica gel firstly with toluene and then with toluene/ethyl acetate (4:1), giving 6-(4-{difluoro-[4-(6-hydroxyhex-1-ynyl)phenoxy]methyl}-3,5-difluorophenyl)hex-5-yn-1-ol as a colourless solid.

reactant | 4′-bromo-4-[difluoro-(4-iodophenoxy)methyl]-3,5,2′-trifluorobiphenyl | 10.8 mmol, 6.00 g | BrC1=CC(=C(C=C1)C1=CC(=C(C(=C1)F)C(OC1=CC=C(C=C1)I)(F)F)F)F | C19H9BrF5IO
reactant | hex-5-yn-1-ol | 40.8 mmol, 4.00 g | C(CCCC#C)O | C6H10O
reactant | water | O | H2O
reactant | hydrochloric acid | 2 N | Cl | ClH
solvent | triethylamine | 6 ml | C(C)N(CC)CC | C6H15N
solvent | toluene | 300 ml | C1(=CC=CC=C1)C | C7H8
catalyst | bis(triphenylphosphine)palladium(II) chloride | 1.00 mmol, 0.700 g | Cl[Pd]([P](C1=CC=CC=C1)(C2=CC=CC=C2)C3=CC=CC=C3)([P](C4=CC=CC=C4)(C5=CC=CC=C5)C6=CC=CC=C6)Cl
catalyst | copper(I) iodide | 0.525 mmol, 0.100 g | [Cu]I
product | 6-(4-{difluoro-[4-(6-hydroxyhex-1-ynyl)phenoxy]methyl}-3,5-difluorophenyl)hex-5-yn-1-ol | FC(C1=C(C=C(C=C1F)C#CCCCCO)F)(OC1=CC=C(C=C1)C#CCCCCO)F | C25H24F4O3
